US07157510B2
1-Allyl Sorbitol
A 3 L, three-necked round bottom flask, equipped with heating mantle, stirrer, nitrogen inlet, and condenser, was charged with 900 mL of ethanol, 150 mL of water, 180 g (1.00 mole) of D-glucose, 119 g (1.00 mole) of tin powder (−100 mesh), and 121 g (1.00 mole) of allyl bromide. The mixture was stirred and slowly heated to reflux—a significant exotherm and gas evolution was observed at 60° C. The gray suspension was stirred at reflux for two days, in which time the reaction mixture turned an orange/brown color. Heat was removed and the mixture was allowed to cool to room temperature. The reaction was neutralized to pH=7 by adding approximately 200 ml of 5M NaOH aqueous solution. The suspension was filtered to remove solids, and the yellow solution was decolorized with multiple treatments of activated carbon. The activated carbon was removed by filtration, and the solvent was removed by rotary evaporation to isolate a white syrup. Typical yield was 200 g with threo-erythro ratio of 6:1, based on GC-MS. The syrup was used without further purification.

reactant | ethanol | 900 mL | C(C)O | C2H6O
reactant | D-glucose | 1.00 mole, 180 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | tin | 1.00 mole, 119 g | [Sn] | Sn
reactant | allyl bromide | 1.00 mole, 121 g | C(C=C)Br | C3H5Br
solvent | water | 150 mL | O | H2O
product | 1-Allyl Sorbitol | C(C=C)C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H18O6
